US09024019B2
Step A: tert-butyl 4-[acetyl(tert-butoxycarbonyl)amino]-6-[(E)-(dimethylhydrazono)methyl]-3-oxo-5H-1,2,4-triazine-2-carboxylate
To a solution of tert-butyl 4-[acetyl(tert-butoxycarbonyl)amino]-6-formyl-3-oxo-5H-1,2,4-triazine-2-carboxylate (461 mg, 1.20 mmol) in EtOH was added N,N-dimethylhydrazine (0.110 mL, 1.44 mmol), followed by addition of 1 droplet of conc. HCl. The mixture was stirred at room temperature for 20 h followed by evaporation of the volatiles to give the title compound as a viscous oil. LCMS (Method K) RT 0.99 min. [M+H]+ 427.

reactant | tert-butyl 4-[acetyl(tert-butoxycarbonyl)amino]-6-formyl-3-oxo-5H-1,2,4-triazine-2-carboxylate | 1.20 mmol, 461 mg | C(C)(=O)N(N1C(N(N=C(C1)C=O)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C | C16H24N4O7
reactant | N,N-dimethylhydrazine | 1.44 mmol, 0.110 mL | CN(N)C | C2H8N2
reactant | HCl | Cl | ClH
solvent | EtOH | CCO | C2H6O
product | tert-butyl 4-[acetyl(tert-butoxycarbonyl)amino]-6-[(E)-(dimethylhydrazono)methyl]-3-oxo-5H-1,2,4-triazine-2-carboxylate | C(C)(=O)N(N1C(N(N=C(C1)/C=N/N(C)C)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C | C18H30N6O6
